US06080773
A solution of 345 g of 2-bromobenzaldehyde diethyl acetal in 3 l of dry tetrahydofuran was cooled to -40° C. In one portion, 913 ml of a 1.6 M solution of butyllithium in hexane were added under vigorous stirring. The resulting solution was stirred for 0.5 h at -25° C., after which a solution of 140 ml of 2-fluorobenzaldehyde in 350 ml tetrahydrofuran was added drop-wise. In a period of 4 h, the mixture was allowed to reach room temperature. The resulting mixture was pored upon ice-water and extracted several times with ethyl acetate. The organic layers were combined, washed with water, dried over magnesium sulphate and evaporated to dryness under reduced pressure to yield 404 g of 2-(diethoxymethyl)-α-(2-fluorophenyl)-benzenemethanol as an oil, M.S. (C.I.) (M/Z): 305 [M+H]+.

reactant | 2-bromobenzaldehyde diethyl acetal | 345 g | C(C)OC(C1=C(C=CC=C1)Br)OCC | C11H15BrO2
reactant | butyllithium | C(CCC)[Li]
reactant | 2-fluorobenzaldehyde | 140 ml | FC1=C(C=O)C=CC=C1 | C7H5FO
solvent | tetrahydofuran | 3 l | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 2-(diethoxymethyl)-α-(2-fluorophenyl)-benzenemethanol | 404 g | C(C)OC(C1=C(C=CC=C1)C(O)C1=C(C=CC=C1)F)OCC | C18H21FO3
